US04124596
A solution of thieno[3,2-b]thiophene (28 g) and 2-(3-chloroformyl-phenyl)propionitrile (56.5 g) in methylene chloride (500 cc) is added dropwise, over a period of 1 hour, to a suspension of anhydrous aluminium chloride (83.5 g) in methylene chloride (500 cc). The mixture is stirred for 17 hours at a temperature of about 20° C. and then poured onto crushed ice (1 kg). The methylene chloride solution is decanted off, washed twice with distilled water (total 600 cc), twice with a 10% (w/v) aqueous sodium carbonate solution (total 600 cc), twice with distilled water (total 600 cc), dried over anhydrous sodium sulphate and evaporated. The residue is taken up in diethyl ether (600 cc), stirred with decolourizing charcoal (5 g) and filtered. The filtrate is evaporated and the residue (60 g), dissolved in methylene chloride (200 cc), is stirred for 2 hours with an N aqueous sodium hydroxide solution. The methylene chloride phase is decanted off, washed three times with distilled water (total 300 cc), dried over anhydrous sodium sulphate and evaporated. The residue (49 g) is dissolved in a boiling mixture of ethyl acetate (40 cc) and ethanol (160 cc). After cooling for 3 hours at 4° C., the resulting crystals are filtered off, washed twice with a mixture (total 40 cc) of ethyl acetate and ethanol (20:80) and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. 2-{3-(Thieno[3,2-b]thien-2-yl)carbonyl-phenyl}propionitrile (36.6 g), melting at 75° C., is thus obtained.

reactant | thieno[3,2-b]thiophene | 28 g | S1C2=C(C=C1)SC=C2 | C6H4S2
reactant | 2-(3-chloroformyl-phenyl)propionitrile | 56.5 g | ClC(=O)C=1C=C(C=CC1)C(C#N)C | C10H8ClNO
reactant | aluminium chloride | 83.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
product | 2-{3-(Thieno[3,2-b]thien-2-yl)carbonyl-phenyl}propionitrile | 36.6 g | S1C2=C(C=C1C(=O)C=1C=C(C=CC1)C(C#N)C)SC=C2 | C16H11NOS2
